US04349378
A solution of N-(3-hydroxy-2-oxopropyl)-2',6'-dimethylmethanesulphonanilide (2.8 g) in pyridine (5 ml) and acetic anhydride (5 ml) was allowed to stand at room temperature for 20 hours. Water was added to decompose excess anhydride, and the oily product was extracted into ether. The ether solution was washed successively with dilute hydrochloric acid and sodium bicarbonate solution, dried (MgSO4), and evaporated to give a yellow oil. A solution of this oil in chloroform was percolated through a short column of silica gel. Evaporation of the eluate gave the product, N-(3-acetoxy-2-oxopropyl)-2',6'-dimethylmethanesulphonanilide, as a pale yellow oil.

reactant | N-(3-hydroxy-2-oxopropyl)-2',6'-dimethylmethanesulphonanilide | 2.8 g | OCC(CN(C1=C(C=CC=C1C)C)S(=O)(=O)C)=O | C12H17NO4S
reactant | Water | O | H2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-acetoxy-2-oxopropyl)-2',6'-dimethylmethanesulphonanilide | C(C)(=O)OCC(CN(C1=C(C=CC=C1C)C)S(=O)(=O)C)=O | C14H19NO5S
